US06562823B1
Step A: Preparation of 1-tert-Butyloxycarbonyl-4-[(3-hydroxyphenyl)acetyl]piperazine
To a solution of N-tert-Butyloxycarbonylpiperazine (9.80 g, 52.6 mmol) and 3-(hydroxyphenyl)acetic acid (8.16 g, 152 mmol) in 100 mL of dimethylformamide at 0° C. was added 1-hydroxybenzotriazole hydrate (9.94 g, 73.6 mmol) and 1-(dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (13.06 g, 68.3 mmol). The solution was allowed to warm to room temperature. After 30 minutes, the reaction was poured into EtOAc and washed with water, saturated NH4Cl solution, saturated NaHCO3 solution, and brine, dried (Na2SO4), filtered, and concentrated in vacuo. The product was isolated as a white foam which was used without further purification.

reactant | N-tert-Butyloxycarbonylpiperazine | 52.6 mmol, 9.80 g | C(C)(C)(C)OC(=O)N1CCNCC1 | C9H18N2O2
reactant | 1-hydroxybenzotriazole hydrate | 73.6 mmol, 9.94 g | O.ON1N=NC2=C1C=CC=C2
reactant | 1-(dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 68.3 mmol, 13.06 g | Cl.CN(C)CCCN=C=NCC
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | dimethylformamide | 100 mL | CN(C=O)C | C3H7NO
product | 1-tert-Butyloxycarbonyl-4-[(3-hydroxyphenyl)acetyl]piperazine | C(C)(C)(C)OC(=O)N1CCN(CC1)C(CC1=CC(=CC=C1)O)=O | C17H24N2O4
